US07030128B2
2-Bromothiazole (341 μl, 3.78 mmol) was coupled to 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine (1.8 mmol) by the method of Example 1 to give 3-(thiazol-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine (162 mg) as an off-white solid: δH (400 MHz, CDCl3) 7.40 (2H, dd, J 4 and 3), 7.93 (1H, d, J 3), 8.48 (1H, s), 10.22 (1H, d, J 8); m/z (ES+) 271 (M++H).

reactant | 2-Bromothiazole | 3.78 mmol, 341 μl | BrC=1SC=CN1 | C3H2BrNS
reactant | 3-tributylstannyl-7-trifluoromethylimidazo[1,2-α]pyrimidine | 1.8 mmol | C(CCC)[Sn](C1=CN=C2N1C=CC(=N2)C(F)(F)F)(CCCC)CCCC
product | 3-(thiazol-2-yl)-7-trifluoromethyl-imidazo[1,2-α]pyrimidine | 162 mg | S1C(=NC=C1)C1=CN=C2N1C=CC(=N2)C(F)(F)F | C10H5F3N4S
